US07547699B2
(5R,8aR)-5,7-Dimethyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene
A mixture of 0.100 g (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester and 0.040 g lithium aluminum hydride in 3 ml tetrahydrofuran was heated to reflux for 2 h. The reaction mixture was cooled to room temperature and partitioned between water and ethyl acetate. The organic phase was washed with brine evaporated and purified by chromatography on silica gel with dichloromethane:methanol:ammonia=90:10:1. to yield 0.053 g of the title compound as slightly yellow gum (MS: 246.4 (M+H+))

reactant | (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester | 0.100 g | C(C)(C)(C)OC(=O)N1C[C@H](N2C=3N=C4C(=CC3C[C@@H]2C1)COC4)C | C18H25N3O3
reactant | lithium aluminum hydride | 0.040 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (5R,8aR)-5,7-Dimethyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene | 0.053 g | C[C@H]1N2C=3N=C4C(=CC3C[C@@H]2CN(C1)C)COC4 | C14H19N3O
